US08304446B2
3-[(3-Amino-4-fluoro-1H-indazol-1-yl)methyl]benzonitrile
To a suspension of ground potassium hydroxide (0.483 g, 8.60 mmol) in anhydrous dimethyl sulfoxide (15 mL) at room temperature under nitrogen was added a solution of 4-fluoro-1H-indazol-3-amine (for a preparation see Intermediate 36) (0.52 g, 3.44 mmol) in anhydrous dimethyl sulfoxide (10 mL). The resulting deep red solution was treated after 10 minutes with 3-cyanobenzyl bromide (0.843 g, 4.30 mmol) in one portion. The reaction mixture was stirred for 30 min and then poured into water (100 mL), forming a yellow emulsion. This was extracted using chloroform (2×100 mL). The combined organic solutions were washed with water-brine (1:1) (100 mL), passed through a hydrophobic frit and evaporated in-vacuo to yield a red oil (2.263 g). The residue was applied to a 100 g silica SPE cartridge and purified by chromatography on Flashmaster II eluting with a 0-100% ethyl acetate in cyclohexane gradient over 80 min. Fractions 159-173 were combined and the solvent was evaporated in-vacuo to yield a yellow solid the title compound (0.77 g, 84%) LCMS (System B) RT=2.32 min, ES+ve m/z 267 (M+H)+.

reactant | potassium hydroxide | 8.60 mmol, 0.483 g | [OH-].[K+]
reactant | 4-fluoro-1H-indazol-3-amine | FC1=C2C(=NNC2=CC=C1)N | C7H6FN3
reactant | 3-cyanobenzyl bromide | 4.30 mmol, 0.843 g | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
reactant | water | 100 mL | O | H2O
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 3-[(3-Amino-4-fluoro-1H-indazol-1-yl)methyl]benzonitrile | 2.263 g | NC1=NN(C2=CC=CC(=C12)F)CC=1C=C(C#N)C=CC1 | C15H11FN4
